US07148226B2
2-(4-Bromo-2-fluoro-phenyl)-5-methyl-thiophene
A mixture of 5-methyl-2-thiophene-boronic acid (1 g, 7.0 mmol), 1-bromo-3-fluoro-4-iodobenzene (1.77 g, 5.9 mmol), tetrakis(triphenylphosphine)palladium(0) (0.34 g, 0.3 mmol), 2M Na2CO3(10 mL) in DME (10 mL) was heated to 75° C. under N2 for 15 h. The reaction mixture was partitioned between 1 N HCl and EtOAc. The organic layer was washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (hexanes) to give the title compound (1.2 g, 75%).

reactant | 5-methyl-2-thiophene-boronic acid | 7.0 mmol, 1 g | CC1=CC=C(S1)B(O)O | C5H7BO2S
reactant | 1-bromo-3-fluoro-4-iodobenzene | 5.9 mmol, 1.77 g | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | Na2CO3 | 2M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 mmol, 0.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Bromo-2-fluoro-phenyl)-5-methyl-thiophene | 1.2 g, 75% | BrC1=CC(=C(C=C1)C=1SC(=CC1)C)F | C11H8BrFS
